US05328639
1.51 g (17.4 raM) of LiBr was charged in a 30 ml-round bottomed flask with two ports with grinding fitting, and the interior atmosphere was sufficiently replaced with nitrogen. Dry acetonitrile in an amount of 40 ml was added thereto, and a solution of 3.50 g (11.60 mM) of 2-fluorooctyl p-toluenesulfonate in 4 ml of dry acetonitrile was further added. Thereafter, the system was subjected to about 5 hours of heat refluxing. At this time, as the temperature was raised, the solution became uniform to immediately precipitate a TSO Li salt. After the reaction, the acetonitrile was distilled off, and 10 ml of water and 10 ml of ether were added for extraction. Further, the mixture was subjected to two times of extraction each with 10 ml of ether, and the ether layer was dried with anhydrous sodium sulfate. After the distilling-off of the solvent, 2-fluorooctyl bromide was obtained through distillation in an amount of 2.24 g (yield: 91%, 87°-88° C./28 mm Hg). [α]D26.4 =-24° (C1, CH2Cl2).

reactant | LiBr | 1.51 g | [Li+].[Br-]
reactant | 2-fluorooctyl p-toluenesulfonate | 11.60 mM, 3.50 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(CCCCCC)F)C | C15H23FO3S
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 2-fluorooctyl bromide | yield: 91% | FC(CBr)CCCCCC | C8H16BrF
